US07160875B2
(S)-7-Amino-5H,7H-dibenzo[b,d]azepin-6-one was coupled with 2-methoxy-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid in analogy to the description in examples 65 and 66 to yield (−)-2-methoxy-N-(6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide as white solid,

reactant | (S)-7-Amino-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
reactant | 2-methoxy-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | COC(C(=O)O)C(=O)NCC(C(F)(F)F)(F)F | C7H8F5NO4
product | (−)-2-methoxy-N-(6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | COC(C(=O)NC1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)C(=O)NCC(C(F)(F)F)(F)F | C21H18F5N3O4
